US06124323
Raney nickel (10.95 g) was washed with water (4×300 ml) then with methanol (4×300 ml). The catalyst was suspended in 450 ml of methanol and 4-(2-bromoethoxy)-6-nitroaniline (5.08 g, 19.46 mmol) was added. The reaction mixture was stirred under a hydrogen atmosphere (1 atm) at room temperature for 1.5 h. After removal of the catalyst by filtration, the filtrate was evaporated to give a black residue. The black residue was redissolved in a mixture of ethyl acetate (200 ml) and methanol (50 ml). Etheral HCl solution (1N, 40 ml) was added slowly to precipitate the diamine as the hydrochloride salt. The purple solid was collected and dissolved in a mixture of acetic acid (25 ml) and water (50 ml). The reaction mixture was cooled to 5° C. in an ice-bath. A solution of sodium nitrite (1.75 g, 25.36 mmol) in 10 ml water was added slowly into the reaction mixture. The mixture was heated at 80° C. for 3 h. The solid was collected by filtration and washed with water (3×30 ml). The solid was dissolved in THF and dried over magnesium sulphate, filtered and concentrated. The residue was chromatographed on silica gel eluted with 50% ethyl acetate in hexanes to give 2.15 g of 6-(2-bromoethoxy)-1H-benzotriazole as a white solid. 1H NMR (CDCl3) 7.86 (1h, d, J=9.03), 7.11-7.05 (2H, m), 4.34 (2H, t, J=6.10), 3.67 (2H, t, J=6.10).

reactant | 4-(2-bromoethoxy)-6-nitroaniline | 19.46 mmol, 5.08 g | BrCCOC1=CC=C(N)C(=C1)[N+](=O)[O-] | C8H9BrN2O3
reactant | HCl | 1N, 40 ml | Cl | ClH
reactant | sodium nitrite | 25.36 mmol, 1.75 g | N(=O)[O-].[Na+]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 6-(2-bromoethoxy)-1H-benzotriazole | 2.15 g | BrCCOC=1C=CC2=C(NN=N2)C1 | C8H8BrN3O
